US05951993
Behenyl Lactate was prepared by reacting methyl lactate (Aldrich Chemical Company, Inc. of Milwaukee, Wis.) with Lanette 22 (behenyl alcohol, 90%, Henkel Corp. of Ambler, Pa.) in a transesterification reaction according to the following method: 0.2 g sodium hydride (60% in mineral oil) was added to 32.6 grams Lanette 22 at 70° C. in a 3-neck 250 ml glass flask purged with nitrogen and inserted with overhead stirrer, Dean Stark trap, thermometer, and condenser. To this was slowly added 9.4 g of methyl lactate and the contents were slowly heated to 160° C. and held at that temperature for one hour. At this temperature over 2 ml of methanol was collected. The contents were heated to 200° C. with a nitrogen sweep to remove any volatile components. After approximately 15 minutes at 200° C. the contents were cooled. Upon cooling the product crystallized and had a melting point of approximately 57° C.

reactant | methyl lactate | C(C(O)C)(=O)OC | C4H8O3
reactant | behenyl alcohol | C(CCCCCCCCCCCCCCCCCCCCC)O | C22H46O
reactant | sodium hydride | 0.2 g | [H-].[Na+]
product | Behenyl Lactate | C(C(O)C)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C25H50O3
